US08222248B2
To a solution of the crude 4-amino-3-iodo-benzoic acid methyl ester in 20 mL of acetic acid was added acetic anhydride (1.25 mL). The reaction was heated at 60° C. for 1 h. The reaction mixture was quenched with water, extracted with ethyl acetate, dried over Na2SO4, and concentrated in vacuo. Purification by flash chromatography (SiO2, 1:3 EtOAc/Hexane) afforded 4-acetylamino-3-iodo-benzoic acid methyl ester: MS (m/z) 320.0 (M+1).

reactant | 4-amino-3-iodo-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)N)I)=O | C8H8INO2
reactant | acetic anhydride | 1.25 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 4-acetylamino-3-iodo-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)NC(C)=O)I)=O | C10H10INO3
